### PR TITLE
Task 134

### PR DESCRIPTION
**Pull request by ClaraTorresLatorre**
Proved lemmas:
lemma HasWeakType.const_mul
lemma HasWeakType.const_smul

Created and proved lemma:
lemma wnorm_const_smul_le

Messed up some variables / types, needs help

### CODE REVIEW

**Comment by grunweg** [comment]
I can try to help with the variables/types. Do you have a particular question?

**Comment by grunweg** [comment]
Looking at the diff, it seems that your change was based on an older version of this file, as it reverts a recent PR. I could re-apply the old PR, for instance - if that is helpful for you.

**Comment by ClaraTorresLatorre** [comment]
> I can try to help with the variables/types. Do you have a particular question?

I changed some types (changed NormedSpace to MulActionWithZero + IsBoundedSMul) to generalize most of the results, and then added NormedSpace only before a couple lemmas that needed them. There is a linter warning that I don't fully understand, probably should be fixed reorganizing the sections and variable declarations.

**Comment by ClaraTorresLatorre** [comment]
> Looking at the diff, it seems that your change was based on an older version of this file, as it reverts a recent PR. I could re-apply the old PR, for instance - if that is helpful for you.

I don't fully understand (this is my first PR ever), but I guess this is helpful, yes.

File: Carleson/ToMathlib/WeakType.lean [hunk 1]
```diff
@@ -21,9 +22,6 @@ variable {α 𝕜 E : Type*} {m : MeasurableSpace α}
 lemma ENNNorm_absolute_homogeneous {c : 𝕜} (z : E) : ofNNReal ‖c • z‖₊ = ↑‖c‖₊ * ↑‖z‖₊ :=
   (toReal_eq_toReal_iff' coe_ne_top coe_ne_top).mp (norm_smul c z)
 
-lemma enorm_absolute_homogeneous {c : 𝕜} (z : E) : ‖c • z‖ₑ = ‖c‖ₑ * ‖z‖ₑ :=
-  (toReal_eq_toReal_iff' coe_ne_top coe_ne_top).mp (norm_smul c z)
-
 lemma ENNNorm_add_le (y z : E) : ofNNReal ‖y + z‖₊ ≤ ↑‖y‖₊ + ↑‖z‖₊ :=
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:25]:
```suggestion
lemma enorm_absolute_homogeneous {c : 𝕜} (z : E) : ‖c • z‖ₑ = ‖c‖ₑ * ‖z‖ₑ :=
  (toReal_eq_toReal_iff' coe_ne_top coe_ne_top).mp (norm_smul c z)

lemma ENNNorm_add_le (y z : E) : ofNNReal ‖y + z‖₊ ≤ ↑‖y‖₊ + ↑‖z‖₊ :=

File: Carleson/ToMathlib/WeakType.lean [hunk 2]
```diff
@@ -12,6 +12,7 @@ open NNReal ENNReal NormedSpace MeasureTheory Set Filter Topology Function
 
 section move
 
+
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:15]:
```suggestion

File: Carleson/ToMathlib/WeakType.lean [hunk 3]
```diff
@@ -607,42 +596,93 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
...
+      exact (ENormedAddMonoid.enorm_add_le _ _).trans (add_le_add h.1 h.2)
+    _ ≤ _ := measure_union_le _ _
+
+variable [NormedSpace 𝕜 E] [NormedSpace 𝕜 E₁] [NormedSpace 𝕜 E₂] [NormedSpace 𝕜 E₃]
+  (L : E₁ →L[𝕜] E₂ →L[𝕜] E₃)
+
+-- TODO: reorganize variables so that everything makes sense
 lemma _root_.ContinuousLinearMap.distribution_le {f : α → E₁} {g : α → E₂} :
-    distribution (fun x ↦ L (f x) (g x)) (‖L‖ₑ * t * s) μ ≤
+    distribution (fun x ↦ L (f x) (g x)) (‖L‖₊ * t * s) μ ≤
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:668]:
```suggestion
    distribution (fun x ↦ L (f x) (g x)) (‖L‖ₑ * t * s) μ ≤

File: Carleson/ToMathlib/WeakType.lean [hunk 4]
```diff
@@ -607,42 +596,93 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
...
     distribution f t μ + distribution g s μ := by
   unfold distribution
-  have h₀ : {x | ‖L‖ₑ * t * s < ‖(fun x ↦ (L (f x)) (g x)) x‖ₑ} ⊆
-      {x | t < ‖f x‖ₑ} ∪ {x | s < ‖g x‖ₑ} := fun z hz ↦ by
+  have h₀ : {x | ↑‖L‖₊ * t * s < ↑‖(fun x ↦ (L (f x)) (g x)) x‖₊} ⊆
+      {x | t < ↑‖f x‖₊} ∪ {x | s < ↑‖g x‖₊} := fun z hz ↦ by
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:672]:
```suggestion
  have h₀ : {x | ‖L‖ₑ * t * s < ‖(fun x ↦ (L (f x)) (g x)) x‖ₑ} ⊆
      {x | t < ‖f x‖ₑ} ∪ {x | s < ‖g x‖ₑ} := fun z hz ↦ by

File: Carleson/ToMathlib/WeakType.lean [hunk 5]
```diff
@@ -607,42 +596,93 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
...
     simp only [mem_union, mem_setOf_eq, Pi.add_apply] at hz ⊢
     contrapose! hz
     calc
-      ‖(L (f z)) (g z)‖ₑ ≤ ‖L‖ₑ * ‖f z‖ₑ * ‖g z‖ₑ := by
+      (‖(L (f z)) (g z)‖₊ : ℝ≥0∞) ≤ ‖L‖₊ * ‖f z‖₊ * ‖g z‖₊ := by
+        refine (toNNReal_le_toNNReal coe_ne_top coe_ne_top).mp ?_
+        simp only [toNNReal_coe, coe_mul, toNNReal_mul]
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:678]:
```suggestion
      ‖(L (f z)) (g z)‖ₑ ≤ ‖L‖ₑ * ‖f z‖ₑ * ‖g z‖ₑ := by

File: Carleson/ToMathlib/WeakType.lean [hunk 6]
```diff
@@ -607,42 +596,93 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
...
         calc
-          _ ≤ ‖L (f z)‖ₑ * ‖g z‖ₑ := ContinuousLinearMap.le_opENorm (L (f z)) (g z)
-          _ ≤ ‖L‖ₑ * ‖f z‖ₑ * ‖g z‖ₑ :=
-            mul_le_mul' (ContinuousLinearMap.le_opENorm L (f z)) (by rfl)
-      _ ≤ _ := mul_le_mul' (mul_le_mul_left' hz.1 ‖L‖ₑ) hz.2
+          _ ≤ ↑‖L (f z)‖₊ * ↑‖g z‖₊ := ContinuousLinearMap.le_opNNNorm (L (f z)) (g z)
+          _ ≤ ‖L‖₊ * ‖f z‖₊ * ‖g z‖₊ :=
+            mul_le_mul' (ContinuousLinearMap.le_opNNNorm L (f z)) (by rfl)
+      _ ≤ _ := mul_le_mul' (mul_le_mul_left' hz.1 ↑‖L‖₊) hz.2
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:683]:
```suggestion
          _ ≤ ‖L (f z)‖ₑ * ‖g z‖ₑ := ContinuousLinearMap.le_opENorm (L (f z)) (g z)
          _ ≤ ‖L‖ₑ * ‖f z‖ₑ * ‖g z‖ₑ :=
            mul_le_mul' (ContinuousLinearMap.le_opENorm L (f z)) (by rfl)
      _ ≤ _ := mul_le_mul' (mul_le_mul_left' hz.1 ‖L‖ₑ) hz.2

File: Carleson/ToMathlib/WeakType.lean [hunk 7]
```diff
@@ -607,42 +596,93 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
...
   calc
-    _ ≤ μ ({x | t < ‖f x‖ₑ} ∪ {x | s < ‖g x‖ₑ}) := measure_mono h₀
+    _ ≤ μ ({x | t < ↑‖f x‖₊} ∪ {x | s < ↑‖g x‖₊}) := measure_mono h₀
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:685]:
```suggestion
    _ ≤ μ ({x | t < ‖f x‖ₑ} ∪ {x | s < ‖g x‖ₑ}) := measure_mono h₀

**Comment by grunweg** [comment]
I pushed some changes which seemed fine; there are probably a few more... but for that, I need to look at your PR locally. I'm working on that, but setting this up takes a while. I'm out of Lean time for today, but can hopefully return to this on Monday.

**Comment by grunweg** [comment]
Sorry for the delay: my computer broke and I was travelling.

Applying your PR against the latest version of the project, there are now build failures. Would you like to look into them? (I can also do it.)

File: Carleson/ToMathlib/WeakType.lean [hunk 8]
```diff
@@ -607,25 +598,74 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
     HasStrongType (fun f x ↦ e * T f x) p p' μ ν (‖e‖₊ * c) :=
   h.const_smul e
 
+lemma wnorm_const_smul_le {𝕜 E α : Type*} [NormedAddCommGroup E] {_x : MeasurableSpace α}
+    {p : ℝ≥0∞} (hp : p ≠ 0) {μ : Measure α} {f : α → E}
+    [NontriviallyNormedField 𝕜] [MulActionWithZero 𝕜 E] [IsBoundedSMul 𝕜 E] (k : 𝕜) :
+    wnorm (k • f) p μ ≤ ‖k‖₊ * wnorm f p μ := by
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:604]: Mathlib style is to always indent the proofs by two spaces. You use four-space indent for subsequent lines *of theorem statements*.

File: Carleson/ToMathlib/WeakType.lean [hunk 9]
```diff
@@ -607,25 +598,74 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
...
+    unfold wnorm
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:605]: I'd move this into the simp, making that `simp [wnorm, ptop, wnorm']`.

File: Carleson/ToMathlib/WeakType.lean [hunk 10]
```diff
@@ -607,25 +598,74 @@ lemma HasStrongType.const_mul {E' α α' : Type*} [NormedRing E']
...
-    {p p' : ℝ≥0∞} {μ : Measure α} {ν : Measure α'} {c : ℝ≥0} (h : HasWeakType T p p' μ ν c)
-    [NormedRing 𝕜] [MulActionWithZero 𝕜 E'] [IsBoundedSMul 𝕜 E'] (k : 𝕜) :
-    HasWeakType (k • T) p p' μ ν (‖k‖₊ * c) := by
+    {p p' : ℝ≥0∞} (hp' : p' ≠ 0) {μ : Measure α} {ν : Measure α'} {c : ℝ≥0}
+    (h : HasWeakType T p p' μ ν c) [NontriviallyNormedField 𝕜] [MulActionWithZero 𝕜 E']
+    [IsBoundedSMul 𝕜 E'] (k : 𝕜) : HasWeakType (k • T) p p' μ ν (‖k‖₊ * c) := by
   intro f hf
   refine ⟨aestronglyMeasurable_const.smul (h f hf).1, ?_⟩
-  sorry
+  calc
```
Comment (grunweg) [inline Carleson/ToMathlib/WeakType.lean:639]: I'd indent this slightly more compactly, as
```
  calc wnorm ((k • T) f) p' ν
    _ ≤ ↑‖k‖₊ * wnorm (T f) p' ν := by simp [wnorm_const_smul_le hp']
    _ ≤ ↑‖k‖₊ * (c * eLpNorm f p μ) := by
       gcongr
       apply (h f hf).2
    _ = ↑(‖k‖₊ * c) * eLpNorm f p μ := by simp [coe_mul, mul_assoc]
```

In fact, you can use the enorm for many steps, which might be even nicer:
```
  calc wnorm ((k • T) f) p' ν
    _ ≤ ‖k‖ₑ * wnorm (T f) p' ν := by simp [wnorm_const_smul_le hp']
    _ ≤ ‖k‖ₑ * (c * eLpNorm f p μ) := by
      gcongr
      apply (h f hf).2
    _ = (‖k‖ₑ * c) * eLpNorm f p μ := by simp [coe_mul, mul_assoc]
```

**Review by grunweg — COMMENTED** [review]
Playing with your file locally, I found a fix for the variables issue. I'll create a PR with my changes on top of yours tonight, so you can take a look yourself.

I also gave the new lemmas a brief review for coding style: this is what I would say on a mathlib PR. (For this PR, you need not address all of these, but I figured you may find this helpful to know anyway.)

**Comment by grunweg** [comment]
Since I'm actively working on this file and this PR ought to go in first, let me go ahead and merge this PR. I'll push #281 immediately afterwards, which should fix the build. (If the one intermediate commit is an issue, I'm happy to force-push history later.)

**Comment by grunweg** [comment]
Thanks for your PR!
